US08198311B2
To 4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-ol (125 mg, 0.40 mmol) in 5 mL of DCE was added TiCl4 (0.44 mmol; 0.44 mL of 1 M solution in DCM). A precipitate immediately formed. The reaction was concentrated in vacuo to approx 1 mL volume and treated with 1-methoxy-2-methyl-1-(trimethylsiloxy)propene (0.23 mL, 1.2 mmol) and the reaction became homogeneous and was complete. The reaction was quenched with NaHCO3, extracted 4× EtOAc, and combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified by SiO2 chromatography using 25% EtOAc in hexanes to give methyl 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoate (155 mg, 99%). MS found: (M+H)+=397.

reactant | 4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-ol | 0.40 mmol, 125 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)O | C18H17FN2O2
reactant | 1-methoxy-2-methyl-1-(trimethylsiloxy)propene | 1.2 mmol, 0.23 mL | COC(=C(C)C)O[Si](C)(C)C | C8H18O2Si
solvent | DCE | 5 mL | ClCCCl | C2H4Cl2
catalyst | TiCl4 | 0.44 mmol, 1 M, 0.44 mL | Cl[Ti](Cl)(Cl)Cl
product | methyl 2-(4-(1-(4-fluorophenyl)-1H-indazol-5-yl)tetrahydro-2H-pyran-4-yl)-2-methylpropanoate | 155 mg, 99% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C1(CCOCC1)C(C(=O)OC)(C)C | C23H25FN2O3
